US07915261B2
Pyridin-3-yl 4-[(tert-butoxycarbonyl)amino]piperidine-1-carboxylate (0.249 g) was dissolved in THF (5.0 ml), and under ice cooling, 4 M hydrogen chloride/EtOAc solution (2.10 ml) was added thereto, followed by stirring at room temperature for 24 hours. The reaction solution was concentrated to dryness to obtain pyridin-3-yl 4-aminopiperidine-1-carboxylate dihydrochloride (0.280 g).

reactant | Pyridin-3-yl 4-[(tert-butoxycarbonyl)amino]piperidine-1-carboxylate | 0.249 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)C(=O)OC=1C=NC=CC1 | C16H23N3O4
reactant | hydrogen chloride EtOAc | 4 M, 2.10 ml | Cl.CCOC(=O)C
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | pyridin-3-yl 4-aminopiperidine-1-carboxylate dihydrochloride | 0.280 g | Cl.Cl.NC1CCN(CC1)C(=O)OC=1C=NC=CC1 | InChI=1S/C11H15N3O2.2ClH/c12-9-3-6-14(7-4-9)11(15)16-10-2-1-5-13-8-10;;/h1-2,5,8-9H,3-4,6-7,12H2;2*1H
